US05202356
To a solution of lithium isopropylcyclohexylamide (prepared from 12.5 ml of n-butyllithium 1.6M solution and isopropyl cyclohexylamine (3.3 ml) (ex Aldrich) in TMF was added at -60°, ethyltrimethylsilylacetate (3.6 ml) (ex Fluka). After 30 minutes at -60°, 4-chloro acetophenone (ex Aldrich) (1.55 g) was added. After 18 hours at 25° the mixture was partitioned between ether and water and worked up in the usual manner. Purification by chromatography (silica; ether/hexane) gave Ethyl-3-(4-chlorophenyl)-but-2-enoate (1.22 g), as a 1:1 mixture of E:Z olefin isomers. NMR 1H: 7.2(4H,m), 6.0 and 5.0(1H,m), 4.12(2H,m), 2.51 and 1.90(3H,s), 1.25(3H,m).

reactant | lithium isopropylcyclohexylamide | C(C)(C)[N-]C1CCCCC1.[Li+]
reactant | n-butyllithium | 1.6M, 12.5 ml | C(CCC)[Li]
reactant | isopropyl cyclohexylamine | 3.3 ml | C(C)(C)NC1CCCCC1 | C9H19N
reactant | ethyltrimethylsilylacetate | 3.6 ml | C(C)OC(C[Si](C)(C)C)=O | C7H16O2Si
reactant | 4-chloro acetophenone | 1.55 g | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
product | Ethyl-3-(4-chlorophenyl)-but-2-enoate | 1.22 g | C(C)OC(C=C(C)C1=CC=C(C=C1)Cl)=O | C12H13ClO2
